US07169777B2
1,2,3,4-Tetrahydro-isoquinoline-3-carboxylic acid (1-(4-chloro-benzyl)-2-{4-[1-(2-fluoro-phenyl)-2-propionylamino-ethyl]-piperazin-1-yl}-2-oxo-ethyl)-amide hydrochloride
3-(1-(4-Chloro-benzyl)-2-{4-[1-(2-fluoro-phenyl)-2-propionylamino-ethyl]-piperazin-1-yl}-2-oxo-ethylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester: To a mixture of 0.30 g (0.65 mmol) of the product from Preparation SM3, 0.17 g (0.59 mmol) of material from part B and 0.25 g (0.65 mmol) of 0-(7-azabenzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate in 2 ml of dichlorormethane is added 0.11 mL (0.62 mmol) of N,N-diisopropylethylamine. The mixture is stirred for three hr and washed with 10% aqueous sodium bisulfate. After the organic portion is separated, the aqueous portion is saturated with sodium chloride and extracted three times with dichloromethane. The combined organics are dried (Na2SO4), filtered and concentrated in vacuo. Chromatography (Biotage, 5% ethanol, ethyl acetate) of the residue affords a mixture which is chromatographed again (Biotage, 0.25% NH4OH/2.25% methanol/dichloromethane) affords 0.23 g (53%) of the title compound.

reactant | 3-(1-(4-Chloro-benzyl)-2-{4-[1-(2-fluoro-phenyl)-2-propionylamino-ethyl]-piperazin-1-yl}-2-oxo-ethylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1C(NC(C(=O)N1CCN(CC1)C(CNC(CC)=O)C1=C(C=CC=C1)F)CC1=CC=C(C=C1)Cl)=O | C39H47ClFN5O5
reactant | N,N-diisopropylethylamine | 0.62 mmol, 0.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 1,2,3,4-Tetrahydro-isoquinoline-3-carboxylic acid (1-(4-chloro-benzyl)-2-{4-[1-(2-fluoro-phenyl)-2-propionylamino-ethyl]-piperazin-1-yl}-2-oxo-ethyl)-amide hydrochloride | 0.23 g, 53% | Cl.ClC1=CC=C(CC(C(=O)N2CCN(CC2)C(CNC(CC)=O)C2=C(C=CC=C2)F)NC(=O)C2NCC3=CC=CC=C3C2)C=C1 | InChI=1S/C34H39ClFN5O3.ClH/c1-2-32(42)38-22-31(27-9-5-6-10-28(27)36)40-15-17-41(18-16-40)34(44)30(19-23-11-13-26(35)14-12-23)39-33(43)29-20-24-7-3-4-8-25(24)21-37-29;/h3-14,29-31,37H,2,15-22H2,1H3,(H,38,42)(H,39,43);1H
